US04071625
A mixture of 17β,19-dihydroxy-1α-methyl-5α-androstan-3-one, trimethylchlorosilane and pyridine in benzene is heated to its reflux temperature for a period of about 14 hours. The reaction mixture is vacuum filtered, the organic layer is washed with water, dried over magnesium sulfate and concentrated in vacuum. Crystallization of the residue from hexane yields 1α-methyl-17β,19-di(trimethylsiloxy)-5α-androstan-3-one.

reactant | 17β,19-dihydroxy-1α-methyl-5α-androstan-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O | C20H32O3
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1α-methyl-17β,19-di(trimethylsiloxy)-5α-androstan-3-one | C[C@H]1CC(C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12CO[Si](C)(C)C)O[Si](C)(C)C)=O | C26H48O3Si2
